US04900719
Preparation of S-Nitrosocaptopril
50 mg of Captopril (0.236 mMoles) was dissolved in 10 ml of 0.1 M HCl at room temperature and cooled briefly in an ice bath. A total of 0.25 ml of 1 M NaNO2 was then added in several small portions with rapid swirling. After 2 min on ice, 1.0 ml of 0.5 M Na2HPO4 was added and the solution was adjusted to pH 7.3 with 0.1 M NaOH. The solution displayed absorption maxima at 542 nm (E=19.8 M-1 cm-1) and 330 nm (E=995 M-1 cm-1).

reactant | Captopril | 0.236 mMoles, 50 mg | C[C@H](CS)C(=O)N1CCC[C@H]1C(=O)O | C9H15NO3S
reactant | NaNO2 | 1 M, 0.25 ml | N(=O)[O-].[Na+]
reactant | NaOH | 0.1 M | [OH-].[Na+]
solvent | HCl | 0.1 M, 10 ml | Cl | ClH
product | S-Nitrosocaptopril | C[C@H](CSN=O)C(=O)N1CCC[C@H]1C(=O)O | C9H14N2O4S
